US08242130B2
To a solution of 1,4-benzodioxane (5 g, 36.72 mmol) in CCl4 (200 mL), NBS (14.38 g, 80.79 mmol) and AIBN (500 mg) were added under N2. The mixture was heated at reflux for 12 h. The reaction mixture was cooled to rt. The solution was evaporated to give the crude product, which was purified by chromatography on neutral Al2O3 using 10% EtOAc in hexane to give the di-bromo compound (9.34 g, 86%). To a stirred solution of 2,3-dibromo-2,3-dihydro-1,4-benzodioxine (9.84 g, 33.45 mmol) in Et2O (150 mL), was added potassium t-butoxide (4.5 g, 40.14 mmol) under N2. The mixture was stirred for 3 h at rt. The solid was filtered off and the solution was concentrated to give the crude product, which purified by chromatography on neutral Al2O3 using 10% EtOAc in hexane to give 2-bromodioxane (6.8 g, 95%). To a mixture of 2-bromodioxane (1.0 g, 4.69 mmol), 4-(4,4,5,5-tetramethyl-1,3-dioxaborolan-2-yl)phenyl acetate (1.23 g, 4.69 mmol), sodium bicarbonate (1.18 g, 14.07 mmol), THF (50 mL) and water (7 mL) was added tetrakis-triphenyl phosphine palladium (271 mg, 0.23 mmol) under N2. The reaction mixture was heated to 110° C. for 5 h and then cooled to rt. Water was added and the mixture was extracted with EtOAc. The organic layer was separated, washed with water, brine, dried and concentrated to give crude product, which was purified by column chromatography, using 20% EtOAc in hexane to give 775 mg of 4-(benzo[b][1,4]dioxin-2-yl)phenyl acetate (62%). MS (ES) m/z: 269.92 (M+1), 268.91 (M); Mp. 123-125° C.

reactant | 2-bromodioxane | 4.69 mmol, 1.0 g | BrC1OCCOC1 | C4H7BrO2
reactant | 4-(4,4,5,5-tetramethyl-1,3-dioxaborolan-2-yl)phenyl acetate | 4.69 mmol, 1.23 g | C(C)(=O)OC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H19BO4
reactant | sodium bicarbonate | 14.07 mmol, 1.18 g | C([O-])(O)=O.[Na+]
reactant | THF | 50 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
solvent | water | 7 mL | O | H2O
product | 4-(benzo[b][1,4]dioxin-2-yl)phenyl acetate | 775 mg, 62% | C(C)(=O)OC1=CC=C(C=C1)C1=COC2=C(O1)C=CC=C2 | C16H12O4
